US08012974B2
3,3-Dimethylcyclohexanone (3 g, 23.77 mmol) and benzylamine (2.73 mL, 24.96 mmol) were dissolved in benzene (20 mL) and stirred at reflux with continuous removal of H2O for 3 hours. The reaction mixture was allowed to cool to RT and the solvent was evaporated. The imine intermediate was dissolved in DCM (100 mL) and cooled to 0° C. Sodium triacetoxyborohydride (95%, 6.36 g, 28.53 mmol) and acetic acid (1.5 mL, 26.15 mmol) were added. After about 20 minutes the ice bath was removed, and the suspension stirred at RT overnight. The reaction mixture was cooled to 0° C. and saturated aqueous NaHCO3 was added. The layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were washed once more with saturated aqueous NaHCO3, dried (Na2SO4), filtered and evaporated. The remaining yellow oil (5 g) was purified by SiO2 chromatography (300 g SiO2, DCM/(DCM:MeOH:NH4OH 60:10:1) 100 to 87% DCM) to give 1 g of racemic benzyl-(3,3-dimethyl-cyclohexyl)-amine as a light yellow oil (19% yield).

reactant | 3,3-Dimethylcyclohexanone | 23.77 mmol, 3 g | CC1(CC(CCC1)=O)C | C8H14O
reactant | benzylamine | 24.96 mmol, 2.73 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | Sodium triacetoxyborohydride | 28.53 mmol, 6.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 26.15 mmol, 1.5 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | H2O | O | H2O
product | racemic benzyl-(3,3-dimethyl-cyclohexyl)-amine | 1 g, 19% yield | C(C1=CC=CC=C1)NC1CC(CCC1)(C)C | C15H23N
